US06165980
A solution of commercial N-BOC-ethylendiamine (1 g) in dry ethanol (100 ml) and 2-methyl-2-thiopseudourea hydroiodide (1.5 g) was refluxed for 8 hours. The solvent was removed at reduced pressure and the crude residue purified by flash chromatography (methylene chloride/methanol: 9/1) to yield 1.5 g of N-BOC-2-aminoethylguanidine hydroiodide as a yellow oil which was dissolved in methanolic hydrochloric acid solution 5N (20 ml) and stirred at room temperature for 3 hours. The white precipitate was collected, washed with dry ethanol, affording 700 mg of the intermediate.

reactant | N-BOC-ethylendiamine | 1 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | 2-methyl-2-thiopseudourea hydroiodide | 1.5 g | I.CSC(N)=N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-BOC-2-aminoethylguanidine hydroiodide | 1.5 g | I.C(=O)(OC(C)(C)C)N(C(=N)N)CCN | InChI=1S/C8H18N4O2.HI/c1-8(2,3)14-7(13)12(5-4-9)6(10)11;/h4-5,9H2,1-3H3,(H3,10,11);1H
